US04596872
8-(3-Amino-4-chlorophenyl)-5,6-dihydroimidazo[1,2-a]pyridine
Combine 5 g (15.7 mmol) of 3'-acetamino-4-bromo-4'-chlorobutyrophenone with 15 g (0.22 mol) of imidazole, and heat to 175° C. for 18 hr. Isolate the crude product by crystallization from ether, and add to a solution of 5 g of potassium hydroxide in 20 ml of 1:1 solution of methanol/water. Heat to reflux for 2 hr. Cool to room temperature, and pour the reaction mixture into 100 ml of water with rapid stirring. The resulting precipitate is recrystallized from ether to provide the title compound.

reactant | 3'-acetamino-4-bromo-4'-chlorobutyrophenone | 15.7 mmol, 5 g | N(C(=O)C)C=1C=C(C=CC1Cl)C(CCCBr)=O | C12H13BrClNO2
reactant | imidazole | 0.22 mol, 15 g | N1C=NC=C1 | C3H4N2
product | 8-(3-Amino-4-chlorophenyl)-5,6-dihydroimidazo[1,2-a]pyridine | NC=1C=C(C=CC1Cl)C=1C=2N(CCC1)C=CN2 | C13H12ClN3
